US05922770
At 7° C., a solution of N-(2-(2-thienyl)ethyl)formamide (9,98 g, 63.8 mmol) in tetrahydrofuran (200 ml) was added to a suspension of sodium borohydride (2.89 g, 76.5 mmol) in tetrahydrofuran (200 ml). The mixture was stirred for 10 min. A solution of iodine (8.09 g, 31.9 mmol) in tetrahydrofuran (200 ml) was added dropwise. The reaction mixture was stirred for 30 min at 7° C. and 30 min at room temperature. It was heated to reflux for 16 h. The reaction mixture was cooled to 7° C. Methanol (500 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in 20% aqueous sodium hydroxide solution (500 ml) and tert-butyl methyl ether (200 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×200 ml). The combined organic layers were dried over magensium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (220 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent to give 2.82 g of N-methyl-N-(2-(2-thienyl)ethyl)amine.

reactant | N-(2-(2-thienyl)ethyl)formamide | 63.8 mmol, 9,98 g | S1C(=CC=C1)CCNC=O | C7H9NOS
reactant | sodium borohydride | 76.5 mmol, 2.89 g | [BH4-].[Na+]
reactant | iodine | 31.9 mmol, 8.09 g | II | I2
reactant | Methanol | 500 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-methyl-N-(2-(2-thienyl)ethyl)amine | 2.82 g | CNCCC=1SC=CC1 | C7H11NS
